US07160893B2
Step (C): 3-Benzyl-6-mercapto-5-methyl-1H-pyrimidine-2,4-dione
Sodium hydrosulfide (119.8 g, 2,14 mole) was added to a cloudy solution of 3-benzyl-6-chloro-5-methyl-1H-pyrimidine-2,4-dione (178 g, 0.71 mole) in dimethylformamide (1 L) and heated to 60° C. 18 hours to give a dark green solution. The reaction solution was cooled and poured into 1 M HCl (6 L) and stirred at room temperature for 1 hour. The solid was collected by filtration and washed with water, dried under vacuum with P2O5 at 45° C. overnight to give 177.4 g. 1H-NMR (CDCl3) δ 10.45 (s, 1H), 7.41 (d, 2H), 7.23–7.30 (m, 3H), 5.07 (s, 2H), 3.59 (s, 1H), 1.96 (s, 3H).

reactant | Sodium hydrosulfide | 2,14 mole, 119.8 g | [SH-].[Na+]
reactant | 3-benzyl-6-chloro-5-methyl-1H-pyrimidine-2,4-dione | 0.71 mole, 178 g | C(C1=CC=CC=C1)N1C(NC(=C(C1=O)C)Cl)=O | C12H11ClN2O2
reactant | HCl | 1 M, 6 L | Cl | ClH
solvent | dimethylformamide | 1 L | CN(C=O)C | C3H7NO
product | 3-Benzyl-6-mercapto-5-methyl-1H-pyrimidine-2,4-dione | C(C1=CC=CC=C1)N1C(NC(=C(C1=O)C)S)=O | C12H12N2O2S
